US04824952
35 ml of ether was cooled to -78° C. and 20 ml of a 1.6 M solution of n-butyllithium in hexane was added thereto. To the obtained mixture, 5 g of 4-bromopyridine dissolved in 30 ml of ether was added. Then 5 g of 1,4-cyclohexanedione monoethylene acetal dissolved in 30 ml of tetrahydrofuran was further added thereto. After the completion of the reaction, the reaction mixture was poured into a saturated aqueous solution of ammonium chloride and purified by extracting with chloroform to give 5 g of 4-hydroxy-4-(4-pyridyl)cyclohexanone

reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-bromopyridine | 5 g | BrC1=CC=NC=C1 | C5H4BrN
reactant | 1,4-cyclohexanedione monoethylene acetal | 5 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ether | 35 ml | CCOCC | C4H10O
product | 4-hydroxy-4-(4-pyridyl)cyclohexanone | 5 g | OC1(CCC(CC1)=O)C1=CC=NC=C1 | C11H13NO2
